US09079919B2
(R)—N-(2′-Amino-5′,5′-difluoro-2,2-dimethyl-5′,6′-dihydrospiro[chroman-4,4′-[1,3]oxazine]-6-yl)-5-cyanopicolinamide
The condensation of (R)-5′,5′-difluoro-2,2-dimethyl-5′,6′-dihydrospiro[chroman-4,4′-[1,3]oxazine]-2′,6-diamine (intermediate B7.3) and 5-cyanopicolinic acid yielded the title compound (78% yield) as a yellow solid. MS (ISP): m/z=428.3 [M+H]+.

reactant | (R)-5′,5′-difluoro-2,2-dimethyl-5′,6′-dihydrospiro[chroman-4,4′-[1,3]oxazine]-2′,6-diamine | FC1([C@@]2(N=C(OC1)N)CC(OC1=CC=C(C=C12)N)(C)C)F | C14H17F2N3O2
reactant | 5-cyanopicolinic acid | C(#N)C=1C=CC(=NC1)C(=O)O | C7H4N2O2
product | (R)—N-(2′-Amino-5′,5′-difluoro-2,2-dimethyl-5′,6′-dihydrospiro[chroman-4,4′-[1,3]oxazine]-6-yl)-5-cyanopicolinamide | 78% yield | NC=1OCC([C@@]2(N1)CC(OC1=CC=C(C=C12)NC(C1=NC=C(C=C1)C#N)=O)(C)C)(F)F | C21H19F2N5O3
